Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])([H:10])=[C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],1.40818110311
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-3.98849720993
[H:1][C:2][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.71155277739
[C:7]([H:8])[H:9].[H:1][O:2][C:3][O:4][C:5]([H:6])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.105452560940001
[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7][H:8].[O:9][H:10]>>[H:1][C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[O:9][H:10],-6.161763147109999
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],1.9037691748900003
[H:1][C:2]([H:3])[O:4][C:5][C:6]#[C:8][C:9]([H:10])[H:11].[H:7]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-3.0056788347900003
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[O:8],3.00418997039
[C:1][O:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[O:2].[C:3](#[C:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10],-1.05505099831
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.98016313083
[H:11].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]([H:13])[H:14]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.84419854624
[C:11]([H:12])([H:13])[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14],-1.36978195878
[H:1][C:2]=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.94058794547
[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-5.97938120493
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8],2.73396152982
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],4.29413960574
[H:1]/[C:2](=[C:3]\[O:4][C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],2.8648779890400005
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.58397071134
[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10]>>[H:10].[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9],3.78364439315
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-5.56834819369
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][O:8][C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12],-1.64219191184
[H:1].[O:2][C@@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[O:11][H:12]>>[H:1][O:2][C:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[O:11][H:12],-4.60443458607
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:8].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:9][C:10]([H:11])([H:12])[H:13],1.68400248848
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:14]([H:15])([H:16])[H:17],1.982741574
[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:7][C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],-3.18769784373
[C:1][C:2](=[C:3]([O:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2](=[C:3]([O:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],5.096795160259999
[H:1][C:2]/[C:3]([O:4][H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][H:5],1.54364103699
